US09120805B2
1-(2-Oxo-2-{4-[1-(2,2,2-trifluoro-acetyl)-piperidin-4-yl]-phenyl}-ethyl)-1H-pyrrole-2-carbonitrile (1.40 g; 3.60 mmol) is slurried in methanol (10 ml). Potassium carbonate (2.49 g; 17.98 mmol), dry dimethylsulfoxide (0.77 ml; 10.79 mmol) and hydrogen peroxide (1.10 ml; 10.79 mmol) are added (caution: strong exothermic reaction after the addition of hydrogen peroxide). The yellow suspension is stirred overnight. The reaction mixture is diluted with water, the precipitate is filtered off by suction, washed with water and dried under vacuum at 50° C. The crude product is purified by flash chromatography. The combined fractions are evaporated to dryness. The residue is triturated with diethylether, filtered off by suction and dried under vacuum at 50° C. to afford 3-(4-piperidin-4-yl-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one as off-white solid;

reactant | 1-(2-Oxo-2-{4-[1-(2,2,2-trifluoro-acetyl)-piperidin-4-yl]-phenyl}-ethyl)-1H-pyrrole-2-carbonitrile | 3.60 mmol, 1.40 g | O=C(CN1C(=CC=C1)C#N)C1=CC=C(C=C1)C1CCN(CC1)C(C(F)(F)F)=O | C20H18F3N3O2
reactant | Potassium carbonate | 17.98 mmol, 2.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 10.79 mmol, 0.77 ml | CS(=O)C | C2H6OS
reactant | hydrogen peroxide | 10.79 mmol, 1.10 ml | OO | H2O2
solvent | methanol | 10 ml | CO | CH4O
solvent | water | O | H2O
product | 3-(4-piperidin-4-yl-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one | N1CCC(CC1)C1=CC=C(C=C1)C=1NC(C=2N(C1)C=CC2)=O | C18H19N3O
